.subckt enable n_s0 n_s1 n_d0 n_d1 n_d2 n_d3 vdd gnd

X1 n_s0 n_s0d vdd gnd not
X2 n_s1 n_s1d vdd gnd not

X3 n_s1d n_s0d n_d0 vdd gnd and
X4 n_s1d n_s0 n_d1 vdd gnd and
X5 n_s1 n_s0d n_d2 vdd gnd and
X6 n_s1 n_s0 n_d3 vdd gnd and

.ends enable