.subckt xnor n_a n_b n_out vdd gnd

X1 n_a n_b n_c vdd gnd nand
X2 n_a n_c n_d vdd gnd nand
X3 n_b n_c n_e vdd gnd nand
X4 n_e n_d n_f vdd gnd nand
X5 n_f n_out vdd gnd not

*C1 n_out gnd 100f
.ends xnor