.subckt xor n_a n_b n_out vdd gnd

X1 n_a n_b n_c vdd gnd nand
X2 n_a n_c n_d vdd gnd nand
X3 n_b n_c n_e vdd gnd nand
X4 n_e n_d n_out vdd gnd nand

*C1 n_out gnd 100f
.ends xor